US04461896
(±)-1,2,3,4-Tetrahydro-1-(3-mercapto-1-oxopropyl)-2-quinolinecarboxylic acid (13.27 g) was suspended in water (125 ml) and the pH was adjusted to 6-7 by the addition of 2 N sodium hydroxide. To the resulting clear solution was added 0.5 M iodine in 95% ethanol dropwise while maintaining the pH at 6.5 by the slow addition of 2 N sodium hydroxide. When a yellow color remained for at least five minutes, addition of the iodine solution was termined and the color was discharged with saturated aqueous sodium thiosulfate. The mixture was then acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The combined organic layer was washed with 10% hydrochloric acid and water, dried over magnesium sulfate, and concentrated under reduced pressure to yield 11 g of (±) 1,1'-[dithiobis(1-oxo-3,1-propanediyl]-bis-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid, m.p. 92°-103° (dec).

reactant | (±)-1,2,3,4-Tetrahydro-1-(3-mercapto-1-oxopropyl)-2-quinolinecarboxylic acid | 13.27 g | SCCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O | C13H15NO3S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | iodine | 0.5 M | II | I2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 125 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | dithiobis(1-oxo-3,1-propanediyl]-bis-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | O=C(CCSSCCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O)N1C(CCC2=CC=CC=C12)C(=O)O | C26H28N2O6S2
